US08138181B2
Step D: Preparation of (cis)-benzyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate:
2-(7-(2-Methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol (1.75 g, 5.22 mmol), (trans)-benzyl 3-fluoro-4-(methylsulfonyloxy)pyrrolidine-1-carboxylate (1.99 g, 6.3 mmol) and cesium carbonate (3.40 g, 10.4 mmol) were added to a sealed tube containing dimethylacetamide and heated to 100° C. overnight with stirring. The dimethylacetamide was removed under vacuum concentration and heat, chloroform was added, and this organic phase was gently washed with water. The combined organic layers were dried over MgSO4, filtered and evaporated. The crude material was purified on silica gel using a 6% solution of ammonium hydroxide in methanol and dichloromethane to yield three major products which could not be separated further by column purification (starting quinoline phenol, product and unidentified by-product). MS APCI (+) m/z 557.3 (M+1) detected. This crude material was taken directly on to the deprotection step.

reactant | 2-(7-(2-Methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | 5.22 mmol, 1.75 g | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C19H17N3O3
reactant | (trans)-benzyl 3-fluoro-4-(methylsulfonyloxy)pyrrolidine-1-carboxylate | 6.3 mmol, 1.99 g | F[C@@H]1CN(C[C@H]1OS(=O)(=O)C)C(=O)OCC1=CC=CC=C1 | C13H16FNO5S
reactant | cesium carbonate | 10.4 mmol, 3.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | (cis)-benzyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | F[C@@H]1CN(C[C@@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC=CC=C2 | C31H29FN4O5
